US07615562B2
2′-{5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophen-2-yl}-bicyclopropyl-1-ol
The title compound was prepared analogous to Method C, starting from (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and 2′-thiophen-2-yl-bicyclopropyl-1-ol (prepared by cyclopropanation of 2-thiophen-2-yl-cyclopropanecarboxylic acid methyl ester, J. Org. Chem. 1993, 502).

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | 2′-thiophen-2-yl-bicyclopropyl-1-ol | S1C(=CC=C1)C1C(C1)C1(CC1)O | C10H12OS
product | 2′-{5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophen-2-yl}-bicyclopropyl-1-ol | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CC=C(S1)C1C(C1)C1(CC1)O)(C)C)C | C23H32N4OS
